US04652566
[Preparation of 2-carbamoyl-7-{2-hydroxy-3-[4-(2-methoxyphenyl)-piperazinyl]propoxy}benzofuran by the process 1]
There was suspended 1.2 g (0.005 mole) of 2-carbamoyl-7-(2,3-epoxypropoxy)benzofuran in 15 ml of ethanol, and thereto 1.1 g (0.0055 mole) of 1-(2-methoxyphenyl)piperazine was added. Thereafter, the mixture was refluxed with heating for 2 hours. After completion of the reaction, the solvent was distilled away from the reaction mixture under reduced pressure, and then the resultant residue was crystallized from chloroform and petroleum ether.

reactant | 2-carbamoyl-7-(2,3-epoxypropoxy)benzofuran | 0.005 mole, 1.2 g | C(N)(=O)C=1OC2=C(C1)C=CC=C2OCC2CO2 | C12H11NO4
reactant | 1-(2-methoxyphenyl)piperazine | 0.0055 mole, 1.1 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-carbamoyl-7-{2-hydroxy-3-[4-(2-methoxyphenyl)-piperazinyl]propoxy}benzofuran | C(N)(=O)C=1OC2=C(C1)C=CC=C2OCC(CN2CCN(CC2)C2=C(C=CC=C2)OC)O | C23H27N3O5
